US04261996
5-Methylthio-2-aminobenzoic acid.
A mixture of 5-methylthio-2-nitrobenzoic acid (25.4 g; 0.119 mole), methanol (200 ml) and Raney nickel (2 g) is shaken in an atmosphere of hydrogen at 50 lb pressure when theoretical amount of hydrogen is absorbed. The catalyst is filtered off and the filtrate evaporated to dryness. The residue is recrystallized from etheriso-Pr2O. Yield 7.6 g; mp 145°-150°.

reactant | 5-methylthio-2-nitrobenzoic acid | 0.119 mole, 25.4 g | CSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 2 g | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | 5-Methylthio-2-aminobenzoic acid | CSC=1C=CC(=C(C(=O)O)C1)N | C8H9NO2S
